US08957068B2
To the solution of (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (43 mg, 0.169 mmol) in NMP (0.7 mL) was added (S)-1-(4-(pyrimidin-5-yloxy)phenyl)ethanamine (41 mg, 0.169 mmol) and DIEA (88 μL, 0.507 mmol). The brown reaction mixture was stirred at 110° C. for 2 days. The reaction mixture was diluted with ethyl acetate and aqueous sodium bicarbonate solution. The separated organic layer was washed with saturated aqueous sodium bicarbonate solution, water and brine. The organic phase was dried over sodium sulfate, filtered off and concentrated under reduced pressure. The residue was purified by reverse phase column chromatography [C-18] to provide (S)-4-isopropyl-3-(2-(((S)-1-(4-(pyrimidin-5-yloxy)phenyl)ethyl)amino)pyrimidin-4-yl)oxazolidin-2-one (7 mg) as its trifluoroacetic acid salt.

reactant | (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.169 mmol, 43 mg | ClC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12ClN3O2
reactant | (S)-1-(4-(pyrimidin-5-yloxy)phenyl)ethanamine | 0.169 mmol, 41 mg | N1=CN=CC(=C1)OC1=CC=C(C=C1)[C@H](C)N | C12H13N3O
reactant | DIEA | 0.507 mmol, 88 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 0.7 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S)-4-isopropyl-3-(2-(((S)-1-(4-(pyrimidin-5-yloxy)phenyl)ethyl)amino)pyrimidin-4-yl)oxazolidin-2-one | 7 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1=CC=C(C=C1)OC=1C=NC=NC1 | C22H24N6O3
